*Nov 04, 2013
*ECN S13-2301, Rev. A
*File Name: SiSS23DN_PS_RC.txt and SiSS23DN_PS_RC.lib
*This document is intended as a SPICE modeling guideline and does not
*constitute a commercial product datasheet.  Designers should refer to the
*appropriate datasheet of the same number for guaranteed specification
*limits.'
* source GENERARTE-COMP PCH
.SUBCKT SiSS23DN_PS_RC D G S PARAMS: C2=1000 C3=1000 R1=1M C4=1000 R2=1M
+  C5=1000 R3=1M R4=1M R5=1M C1=1000
C_CT6         N11708 N11712  5.2383m  TC=0,0 
C_CF2         0 N16364  35.1524m  TC=0,0 
R_RT1         J-A--TEMP-TANK N11404  12.9409 TC=0,0 
C_CF7         0 N18737  1.8280m  TC=0,0 
R_RT7         N11712 N11716  397.6960m TC=0,0 
C_CF4         0 N16388  3.1784  TC=0,0 
G_G7         0 JUNCTION-TEMPERATURE-1RC VALUE {
+  (V(Source)-V(Drain))*I(V_V_Source)+(V(Source)-V(Gate))*(-I(V_V_Gate)) }
C_C10         N94536 N94151  {C4}  TC=0,0 
C_C12         N95722 N95798  {C2}  TC=0,0 
C_C5         N92368 N92773  {C2}  TC=0,0 
V_V_Gate         G GATE 0VDC
R_RT3         N11408 N11412  4.5637 TC=0,0 
C_C8         N94061 N94123  {C2}  TC=0,0 
R_RF3         N16384 N16388  23.0912 TC=0,0 
V_V4         N11732 0 {TEMP}
R_R10         N94536 N94151  {R4} TC=0,0 
R_R5         N92368 N92773  {R2} TC=0,0 
C_C3         N91434 N91125  {C2}  TC=0,0 
R_R12         N95722 N95798  {R2} TC=0,0 
R_R8         N94061 N94123  {R2} TC=0,0 
R_RT8         N11716 N11732  366.6141m TC=0,0 
R_RT6         N11708 N11712  549.4963m TC=0,0 
R_R3         N91434 N91125  {R2} TC=0,0 
G_DissipationPower         0 J-A-TEMP-FILTER VALUE {
+  (V(Source)-V(Drain))*I(V_V_Source)+(V(Source)-V(Gate))*(-I(V_V_Gate)) }
C_CT2         N11404 N11408  34.8311m  TC=0,0 
R_RT5         J-C-TEMP-TANK N11708  383.8136m TC=0,0 
C_C1         JUNCTION-TEMPERATURE-1RC N89014  {C1}  TC=0,0 
C_C13         N95798 N95860  {C3}  TC=0,0 
R_RF2         N16364 N16384  12.1154 TC=0,0 
V_V3         N11450 0 {TEMP}
C_C9         N94123 N94536  {C3}  TC=0,0 
R_R13         N95798 N95860  {R3} TC=0,0 
R_RF8         N18741 N18767  173.7706m TC=0,0 
C_CT1         J-A--TEMP-TANK N11404  1.1037  TC=0,0 
R_RF1         J-A-TEMP-FILTER N16364  5.8720 TC=0,0 
R_RT2         N11404 N11408  12.1287 TC=0,0 
R_R9         N94123 N94536  {R3} TC=0,0 
C_CT4         N11412 N11450  2.7608  TC=0,0 
R_RF5         J-C-TEMP-FILTER N18733  583.9052m TC=0,0 
V_V5         N16436 0 {TEMP}
C_CT3         N11408 N11412  3.1174m  TC=0,0 
G_G5         0 J-A--TEMP-TANK VALUE {
+  (V(Source)-V(Drain))*I(V_V_Source)+(V(Source)-V(Gate))*(-I(V_V_Gate)) }
C_C4         JUNCTION-TEMPERATURE-3RC N92368  {C1}  TC=0,0 
R_RF7         N18737 N18741  4.0114m TC=0,0 
C_C14         N95860 N96370  {C4}  TC=0,0 
C_C11         JUNCTION-TEMPERATURE-5RC N95722  {C1}  TC=0,0 
R_RT4         N11412 N11450  32.6948 TC=0,0 
C_CF8         0 N18741  502.2770u  TC=0,0 
C_C7         JUNCTION-TEMPERATURE-4RC N94061  {C1}  TC=0,0 
R_R1         JUNCTION-TEMPERATURE-1RC N89014  {R1} TC=0,0 
C_C2         JUNCTION-TEMPERATURE-2RC N91434  {C1}  TC=0,0 
R_R4         JUNCTION-TEMPERATURE-3RC N92368  {R1} TC=0,0 
R_R14         N95860 N96370  {R4} TC=0,0 
R_R11         JUNCTION-TEMPERATURE-5RC N95722  {R1} TC=0,0 
C_CF5         0 J-C-TEMP-FILTER  499.2253u  TC=0,0 
C_CF1         0 J-A-TEMP-FILTER  3.1431m  TC=0,0 
R_R7         JUNCTION-TEMPERATURE-4RC N94061  {R1} TC=0,0 
R_R2         JUNCTION-TEMPERATURE-2RC N91434  {R1} TC=0,0 
C_CT5         J-C-TEMP-TANK N11708  7.1031m  TC=0,0 
C_C15         N96370 N95888  {C5}  TC=0,0 
V_V9         N92392 0 {TEMP}
V_V_Source         S SOURCE 0VDC
V_V11         N95888 0 {TEMP}
R_RF4         N16388 N16436  21.3106 TC=0,0 
C_CT8         N11716 N11732  560.0326u  TC=0,0 
V_V10         N94151 0 {TEMP}
R_R15         N96370 N95888  {R5} TC=0,0 
G_G4         0 J-C-TEMP-FILTER VALUE {
+  (V(Source)-V(Drain))*I(V_V_Source)+(V(Source)-V(Gate))*(-I(V_V_Gate)) }
V_V8         N91125 0 {TEMP}
C_C6         N92773 N92392  {C3}  TC=0,0 
X_U1         DRAIN GATE SOURCE SISS23DN 
C_CT7         N11712 N11716  22.2680m  TC=0,0 
G_G9         0 JUNCTION-TEMPERATURE-3RC VALUE {
+  (V(Source)-V(Drain))*I(V_V_Source)+(V(Source)-V(Gate))*(-I(V_V_Gate)) }
C_CF6         0 N18733  3.1267m  TC=0,0 
R_R6         N92773 N92392  {R3} TC=0,0 
G_G11         0 JUNCTION-TEMPERATURE-5RC VALUE {
+  (V(Source)-V(Drain))*I(V_V_Source)+(V(Source)-V(Gate))*(-I(V_V_Gate)) }
V_V7         N89014 0 {TEMP}
C_CF3         0 N16384  793.9976m  TC=0,0 
G_G10         0 JUNCTION-TEMPERATURE-4RC VALUE {
+  (V(Source)-V(Drain))*I(V_V_Source)+(V(Source)-V(Gate))*(-I(V_V_Gate)) }
G_G8         0 JUNCTION-TEMPERATURE-2RC VALUE {
+  (V(Source)-V(Drain))*I(V_V_Source)+(V(Source)-V(Gate))*(-I(V_V_Gate)) }
R_RF6         N18733 N18737  916.3505m TC=0,0 
V_V_Drain         DRAIN D 0VDC
G_G6         0 J-C-TEMP-TANK VALUE {
+  (V(Source)-V(Drain))*I(V_V_Source)+(V(Source)-V(Gate))*(-I(V_V_Gate)) }
V_V6         N18767 0 {TEMP}
.ENDS

.SUBCKT SiSS23DN D G S 
M1 3 GX S S PMOS W= 8975000u L= 0.25u 
M2 S GX S D NMOS W= 8975000u L= 0.42u
R1 D 3 1.74e-03 TC=1.655e-03 3.773e-06 
CGS GX S 3.840e-09 
CGD GX D 1.931e-10 
RG G GY 2.6
RTCV 100 S 1e6 TC=2.079e-04 1.0638e-06
ETCV GY GX 100 200 1 
ITCV S 100 1u 
VTCV 200 S 1 
DBD D S DBD 8975000u 
**************************************************************** 
.MODEL PMOS PMOS ( LEVEL = 3 TOX = 2e-8 
+ RS = 0 KP = 5.106e-06 NSUB = 3.053e+15 
+ KAPPA = 9.828e-05 NFS = 1.000e+12 
+ LD = 0 IS = 0 TPG = -1 ) 
*************************************************************** 
.MODEL NMOS NMOS ( LEVEL = 3 TOX = 2e-8 
+NSUB = 5.159e+16 IS = 0 TPG = -1 ) 
**************************************************************** 
.MODEL DBD D ( 
+FC = 0.1 TT = 3.491e-08 T_MEASURED = 25 BV = 21 
+RS = 2.266e-02 N = 1.731e+00 IS = 2.826e-07 
+EG = 1.062e+00 XTI = -3.277e+00 TRS1 = 1.000e-05 
+CJO = 2.000e-11 VJ = 3.000e-01 M = 1.000e+00 ) 
.ENDS 
